US07423050B2
(i) Intermediate: 1-Benzylindol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide
Add oxalyl chloride (0.18 mL, 2.1 mmol) dropwise to a solution of 1-benzylindol-3-carboxylic acid (0.48 g, 1.9 mmol) in pyridine and CH3CN (5 mL each) cooled in an ice bath. Stir the reaction mixture for 2.25 hr. and then add a suspension of 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.56 g, 1.9 mmol) in CH3CN (5 mL) and pyridine (12 mL). Warm the reaction mixture to room temperature overnight. Quench the reaction with cold H2O (20 mL) and dilute with CHCl3. Adjust the pH to 11 with Na2CO3 and separate the layers. Extract the aqueous layer with CHCl3 (2×30 mL). Combine the organic fractions and dry with anhydrous MgSO4, filter and concentrate the mixture in vacuo. Purify the product by chromatography on a silica gel column, eluting with methanol/CH2Cl2 (5:95) followed by methanol/CH2Cl2 (10:90) to afford the sub-title compound (0.44 g, 51%). 1H NMR (CD3OD) δ 8.45 (d, J=8 Hz, 1H), 8.32 (s, 1H), 8.26 (m, 1H), 7.95 (t, J=8 Hz, 1H), 7.72 (d, J=8 Hz, 1H), 7.45 (m, 1H), 7.22-7.37 (m, 7H), 5.51 (s, 2H), 3.90 (m, 1H), 2.93-3.01 (m, 2H), 2.33 (s, 3H), 2.21-2.31 (m, 2H), 1.92-1.99 (m, 2H), 1.71-1.84 (m, 2H); CIMS (Methane) m/z 453 [C28H28N4O2+H]+.

reactant | oxalyl chloride | 2.1 mmol, 0.18 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-benzylindol-3-carboxylic acid | 1.9 mmol, 0.48 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C16H13NO2
reactant | 2-amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 1.9 mmol, 0.56 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzylindol-3-yl-N-[6-(1-methylpiperidin-4-ylcarbonyl)-pyridin-2-yl]-carboxamide | 0.44 g, 51% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C28H28N4O2
